US07855213B2
4,4′-(3-Amino-isoindole-1,1-diyl)-bis-phenol (Scheme #2, B)
A mixture of phenol (294 g, 3.10 moles) and 1,2-dicyanobenzene (20 g, 0.16 moles) was heated to reflux at 185° C. for 3 hours. The reaction was cooled to room temperature and diluted with 2:1 ether:hexane (1.5 L). The resulting precipitate was stirred for 1 hour and filtered. The isolated filter cake was triturated with dichloromethane (0.6 L), stirred for 0.5 hour and filtered. The crude compound was purified using flash chromatography (silica; 65:30:5 dichloromethane:acetone: methanol with 0.1% NH4OH, 8 L; 50:50 dichloromethane:methanol with 0.1% NH4OH, 4 L; methanol with 0.1% NH4OH, 1 L) to give the title compound as a pale yellow solid (9 g, 20%). 1H NMR (300 MHz, DMSO-d6/TFA-d) δ 8.47 (d, J=7.8 Hz, 1 H), 7.91 (t, J=7.2 Hz, 1 H), 7.87 (m, 2 H), 7.25 (d, J=8.7 Hz, 4 H), 6.98 (d, J=8.7 Hz, 4 H); MS (ES+) m/z 317 [M+1]+; tR=1.24 min.

reactant | phenol | 3.10 moles, 294 g | C1(=CC=CC=C1)O | C6H6O
reactant | 1,2-dicyanobenzene | 0.16 moles, 20 g | C(#N)C1=C(C=CC=C1)C#N | C8H4N2
reactant | hexane | 1.5 L | CCCCCC | C6H14
reactant | ether | CCOCC | C4H10O
product | 4,4′-(3-Amino-isoindole-1,1-diyl)-bis-phenol | 9 g, 20% | NC1=NC(C2=CC=CC=C12)(C1=CC=C(C=C1)O)C1=CC=C(C=C1)O | C20H16N2O2
